US09085606B2
Preparation of (S)-ethyl 3-(2-aminoacetamido)-3-(3,5-di-tert-butylphenyl)propanoate hydrochloride
To a solution of S)-ethyl 3-(2-((tert-butoxycarbonyl)amino)acetamido)-3-(3,5-di-tert-butylphenyl)propanoate (163.4 mg, 0.35 mmol) in 1,4-dioxane (2 mL) was added 4.0 M HCl solution in 1,4-dioxane and the reaction mixture was stirred at room temperature for 1 h. Evaporation of the solvent in vacuo and the crystallization of the residue from ethyl acetate/hexanes mixture afforded a colorless foamy solid (153.0 mg). LC-MS analysis of the solid shows the desired product's mass: m/z 363 (M+H) and m/z 725 (2M+H); Calcd for C21H34N2O3: 362.51.

reactant | ethyl 3-(2-((tert-butoxycarbonyl)amino)acetamido)-3-(3,5-di-tert-butylphenyl)propanoate | 0.35 mmol, 163.4 mg | C(C)(C)(C)OC(=O)NCC(=O)NC(CC(=O)OCC)C1=CC(=CC(=C1)C(C)(C)C)C(C)(C)C | C26H42N2O5
reactant | HCl | 4.0 M | Cl | ClH
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | (S)-ethyl 3-(2-aminoacetamido)-3-(3,5-di-tert-butylphenyl)propanoate hydrochloride | 153.0 mg | Cl.NCC(=O)N[C@@H](CC(=O)OCC)C1=CC(=CC(=C1)C(C)(C)C)C(C)(C)C | InChI=1S/C21H34N2O3.ClH/c1-8-26-19(25)12-17(23-18(24)13-22)14-9-15(20(2,3)4)11-16(10-14)21(5,6)7;/h9-11,17H,8,12-13,22H2,1-7H3,(H,23,24);1H/t17-;/m0./s1
